US03984357
The reagent CF3SO2CH2MgCl was prepared from 22.0 g. (0.15 mole) of methyl perfluoromethylsulfone and 0.2 mole of methylmagnesium chloride in tetrahydrofuran. Butyryl chloride (30.0 g.; 0.3 mole) was added at room temperature and the mixture stirred for 2 hours. The mixture was hydrolyzed with 3 N HCl, the tetrahydrofuran phase separated and heated to remove solvent. The residue was dissolved in diethyl ether and the solution (dried over MgSO4) heated to remove the ether, giving 14 g. of the novel fluoroalkylsulfonyl methane precursor, CF3SO2CH2COC3H7 b.p. 90°C. (5 mm.). A sample was recrystallized from water, m.p. 67.5°-68.5°C.

reactant | methylmagnesium chloride | 0.2 mole | C[Mg]Cl
reactant | Butyryl chloride | 0.3 mole, 30.0 g | C(CCC)(=O)Cl | C4H7ClO
reactant | HCl | 3 N | Cl | ClH
reactant | CF3SO2CH2COC3H7 | C(F)(F)(F)S(=O)(=O)CC(=O)CCC | C6H9F3O3S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | CF3SO2CH2MgCl | C(F)(F)(F)S(=O)(=O)C[Mg]Cl | InChI=1S/C2H2F3O2S.ClH.Mg/c1-8(6,7)2(3,4)5;;/h1H2;1H;/q;;+1/p-1
